* Z:\home\harry\Projects\C\PowerF411\contents\circuits\LLC.asc
* Generated by LTspice 24.1.9 for Windows.
V3 N002 N005 PULSE(0 10 {Td/2} {Tr} {Tr} {T/2 - Td} {T})
V2 N009 0 PULSE(0 10 {T/2 + Td/2} {Tr} {Tr} {T/2 - Td} {T})
C1 N007 N006 {C_r}
L1 N008 N007 {L_r}
L2 N011 N008 {L_m}
L3 0 N003 {N_Rx*N_Rx*L_m}
L4 N010 0 {N_Rx*N_Rx*L_m}
R2 N004 0 {R_o}
R6 P001 N004 {R_pa}
V4 N001 0 {VDC}
M2 N001 N002 N005 N005 IRFZ24
C2 P001 0 {C_o}
D1 N003 N004 SB540
D2 N010 N004 SB540
M1 N005 N009 0 0 IRFZ24
C3 N001 0 470µ
C4 N011 0 470µ
C5 N001 N011 470µ
R1 N006 N005 65m
.model D D
.lib C:\users\harry\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\harry\AppData\Local\LTspice\lib\cmp\standard.mos
.param T={1/f} R_pa=40u dead_pct=4 rising_c=40
.param C_r=800n L_r=11u L_m=84.5u N_Rx=1.075
.param C_o=470u
K L2 L3 L4 0.999
* .param r_o 0.5 3 1
* .ac lin 1000 300k 520k
.param R_o=2.5
* .tran 0 {2000*T} {0*T} {T/12} uic
.model SB540 D
+ IS=5e-6       ; saturation current (adjust as needed)
+ N=1.1         ; emission coefficient (Schottky maybe ~1.0–1.2)
+ RS=0.020      ; series resistance (approx, for 5 A scale)
+ BV=40         ; breakdown voltage (reverse)
+ IBV=0.1m      ; reverse breakdown current specification
+ CJO=250p      ; zero-bias junction capacitance (typical)
+ M=0.33        ; grading coefficient (typical)
+ VJ=0.4        ; built-in potential (approx)
+ TT=2e-9       ; transit time (small)
.meas P_in AVG -V(N001)*I(V4)
.meas P_out AVG V(N004)*I(R2)
.meas Efficiency PARAM 100*P_out/P_in
.param Td = T*(dead_pct/100)
.param Tr = T/rising_c
* .param VDC=10 f=237.1k
* .tran 0 {1600*T} {1100*T} {T/20} uic
.param rat=3
.param VDC=12.5 f=48k
.tran 0 {1106*T} {1100*T} {T/20} uic
.backanno
.end
